US06541505B1
N-[2-(3-Cyano-1H-indol-5-yl)-ethyl]-4-[2-(2-diisopropylamino-ethylamino)-pyrimidin-4-yl]-benzamide.
Using 2-(diisopropylamino)-ethylamine and N-[2-(3-Cyano-1H-indol-5-yl)-ethyl]-4-[2-chloro-pyrimidin-4-yl]-benzamide (reference example 1az) as substrates.

reactant | 2-(diisopropylamino)-ethylamine | C(C)(C)N(CCN)C(C)C | C8H20N2
reactant | N-[2-(3-Cyano-1H-indol-5-yl)-ethyl]-4-[2-chloro-pyrimidin-4-yl]-benzamide | C(#N)C1=CNC2=CC=C(C=C12)CCNC(C1=CC=C(C=C1)C1=NC(=NC=C1)Cl)=O | C22H16ClN5O
product | N-[2-(3-Cyano-1H-indol-5-yl)-ethyl]-4-[2-(2-diisopropylamino-ethylamino)-pyrimidin-4-yl]-benzamide | C(#N)C1=CNC2=CC=C(C=C12)CCNC(C1=CC=C(C=C1)C1=NC(=NC=C1)NCCN(C(C)C)C(C)C)=O | C30H35N7O
